US07985769B2
Concentrated sulfuric acid (10 drop) was added to a solution of 3-Amino-5-phenyl-thiophene-2-carboxylic acid methyl ester (500 mg, 2,15 mmol) in 20 ml of dioxane/chloroforme (2:3) in a sealed tube. After cooling the solution at −78° C., put 20 ml of isobutene gaz. The sealed tube was closed and then the reaction mixture was stirred for 6 days at 60° C. The solvant was removed and then partitioned between 15 ml of sat. Na2CO3 solution and 15 ml of EtOAc. The organic layer was separated, the aqueous phase was washed twice with ethyl acetate and the combined ethyl acetate layer was dried (MgSO4), concentrated and the residue was purified by flash chromatography (5% EtOAc/Hexane) to obtain 385 mg (62%) of 3-tert-Butylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester. NMR 1H (CDCl3, 400 MHz): 7.65 ppm (d, 2H, Haro); 7.44-7.38 ppm (m, 3H, Haro); 7.07 ppm (s, 1H, Haro); 3.86 ppm (s, 3H); 1.48 ppm (s, 9H).

reactant | 3-Amino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 2,15 mmol, 500 mg | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | isobutene | 20 ml | C=C(C)C | C4H8
catalyst | sulfuric acid | 10 drop | S(O)(O)(=O)=O | H2O4S
solvent | dioxane chloroforme | 20 ml | O1CCOCC1.C(Cl)(Cl)Cl
product | 3-tert-Butylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 385 mg, 62% | COC(=O)C=1SC(=CC1NC(C)(C)C)C1=CC=CC=C1 | C16H19NO2S
